US05160662
To 100 ml of dry ethanol containing 77.7 g of oa p-(1-trifluoromethyl-heptyloxy)-nitrobenzene, was added 0.5 g of 5% Pd/C (5% palladium carbon) followed by carrying out reduction within an atmosphere of hydrogen at normal pressure under stirring at room temperature. After it was confirmed that no absorption of hydrogen was observed, the catalyst was removed by filtration and then the ethanol was distilled off to obtain 6.7 g of oily oa p-(1-trifluoromethylheptyloxy)-aniline.

reactant | p-(1-trifluoromethyl-heptyloxy)-nitrobenzene | FC(C(CCCCCC)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C14H18F3NO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | ethanol | 100 ml, 77.7 g | C(C)O | C2H6O
product | p-(1-trifluoromethylheptyloxy)-aniline | FC(C(CCCCCC)OC1=CC=C(N)C=C1)(F)F | C14H20F3NO
